US04841067
A mixture of 100 mg of (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane, 2 g of dry neutral alumina, and 2 ml of isoamyl alcohol was stirred for 16 hours at 100° C., and then stirred for 90 minutes at 140° C. After filtration of the alumina, the filtrate was evaporated under reduced pressure to obtain 97 mg of (2RS, 3S)-3-carbobenzoxyamino-2-hydroxy-5-methylhexyl isoamyl ether as a colorless oil.

reactant | (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane | 100 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C1CO1)CC(C)C | C15H21NO3
reactant | isoamyl alcohol | 2 ml | C(CC(C)C)O | C5H12O
product | (2RS, 3S)-3-carbobenzoxyamino-2-hydroxy-5-methylhexyl isoamyl ether | 97 mg | C(CC(C)C)OCC([C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)O | C20H33NO4
